US03970682
Into a 1 liter flask purged with dry nitrogen, there is introduced 210 ml of anhydrous methanol followed by 63.2 g of aluminium triisobutyl over thirty minutes. The resulting solution is refluxed for one hour. After cooling, the solution is introduced into an autoclave with 6.5 g of 5.3% palladium on carbon. 58.8 g (0.30 mole) of methyl[2-n-propyl-3-keto-cyclopent-1-en-1-yl]-acetate is added. The autoclave is closed, shaken to homogenise the mass and heated to 40°C. Hydrogen is then introduced under a pressure of 10 kg/cm2 until no further hydrogen absorption occurs. After cooling, the mass is filtered to separate the catalyst, poured into water and extracted with petroleum ether (3 × 100 ml). The petroleum ether solution is washed to neutrality and distilled. 53 g of crude product are thus obtained which are rectified under reduced pressure. 43.8 g of methyl [2-n-propyl-3-keto-cyclopent-1-yl]-acetate is thus obtained, presenting the following characteristics:

reactant | methyl[2-n-propyl-3-keto-cyclopent-1-en-1-yl]-acetate | 0.30 mole, 58.8 g | COC(CC1=C(C(CC1)=O)CCC)=O | C11H16O3
reactant | Hydrogen | [H][H] | H2
product | methyl [2-n-propyl-3-keto-cyclopent-1-yl]-acetate | 43.8 g | C(CC)C1C(CCC1=O)CC(=O)OC | C11H18O3
